US07321041B2
5-(3-Aminopropylamino)-7-[6-dimethylamino-biphenyl-3-yl)-[1,6]naphthyridine
Treatment of the above intermediate with 2-methylnicotinic acid according to Method A (Example 1) provided the corresponding [1,6]napthyridin-5-ol. Treatment of this with phenylboronic acid using the procedure described in Example 5 provided 7-(6-dimethylamino-biphenyl-3-yl)-[1,6]naphthyridin-5-ol. Conversion to the 5-chloro intermediate using Method B, followed by treatment of this with 1,3-diaminopropane by the procedure described in Method C (Example 3) provided the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.82 (dd, 1H), 8.16 (d, 1H), 8.04 (dd, 1H), 8.00 (d, 1H), 7.63 (dd, 2H), 7.52 (s, 1H), 7.41 (t, 2H), 7.29 (t, 1H), 7.19 (dd, 1H), 7.08 (d, 1H), 3.84 (t, 2H), 3.00 (t, 2H), 2.58 (s, 6H), 1.99 (t, 1H), MS (m/e) calculated for C25H27N5 397, found 398.3 (M+H).

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 7-(6-dimethylamino-biphenyl-3-yl)-[1,6]naphthyridin-5-ol | CN(C1=CC=C(C=C1C1=CC=CC=C1)C=1N=C(C=2C=CC=NC2C1)O)C | C22H19N3O
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
product | 5-(3-Aminopropylamino)-7-[6-dimethylamino-biphenyl-3-yl)-[1,6]naphthyridine | NCCCNC1=C2C=CC=NC2=CC(=N1)C=1C=C(C(=CC1)N(C)C)C1=CC=CC=C1 | C25H27N5
